US07018988B2
(2S,4EZ)-N-allyl-4-{[(4-methoxybenzyl)oxy]imino}-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, phenoxyacetyl chloride, and allylamine the title compound was obtained in 72% purity by LC/MS.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | allylamine | C(C=C)N | C3H7N
product | (2S,4EZ)-N-allyl-4-{[(4-methoxybenzyl)oxy]imino}-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide | C(C=C)NC(=O)[C@H]1N(CC(C1)=NOCC1=CC=C(C=C1)OC)C(COC1=CC=CC=C1)=O | C24H27N3O5
